US20010007873A1
B. 1-Bromo-2-isopropyl4-benzyloxy-benzene
Under a N2 atmosphere in 400 mL of carbon tetrachloride was combined 33.50 g (148.0 mmol) of 1-isopropyl-3-benzyloxy-benzene, 27.66 g (155.4 mmol) of NBS (recrystallized from water), followed by 60.0 g of silica gel 60 (EM Science). The reaction was allowed to stir in the absence of light for 48 hours. Silica gel was then removed by filtration and was washed with dichloromethane. The combined filtrate was washed with 1M NaOH (2 ×200 mL) and brine (1×200 mL), dried over sodium sulfate, filtered and concentrated in vacuo to yield 44.46 g (98%) of crude product (the title compound) as a yellow liquid.

reactant | 1-isopropyl-3-benzyloxy-benzene | 148.0 mmol, 33.50 g | C(C)(C)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C16H18O
reactant | NBS | 155.4 mmol, 27.66 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 400 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Bromo-2-isopropyl4-benzyloxy-benzene | 44.46 g, 98% | BrC1=C(C=C(C=C1)OCC1=CC=CC=C1)C(C)C | C16H17BrO
